US07615563B2
Thiazole-2-carboxylic acid 4-tert-butoxycarbonylamino-phenyl ester
To a solution of 2-TMS-thiazole (2.25 mL, 14.1 mmol) in DCM (5 mL) at 0° C. was slowly added a solution of phosgene in toluene (20%, 7.45 mL, 14.1 mmol) over 15 Min. After stirring for 2 h at RT, the resulting solution was slowly added via syringe to a solution of N-BOC-4-hydroxyaniline (4.39 g, 21.2 mmol) and pyridine (2.3 mL, 28.2 mmol) in DCM (100 mL) at 0° C. After stirring for 20 h at RT, the reaction mixture was quenched by addition of sat. NaHCO3 (100 mL), EtOAc (150 mL) was added, and the phases were separated. The aqueous phase was extracted with EtOAc (2×75 mL), and the combined organic extracts were dried over MgSO4 and concentrated in vacuo. Purification by column chromatography (10-50% EtOAc in hexanes) afforded the product as a green solid (518 mg, 12%). 1H-NMR (400 MHz, DMSO-d6) δ 9.49 (s, 1H) 8.29 (d, J=3.0 Hz, 1H), 8.22 (d, J=3.0 Hz, 1H), 7.53 (d, J=8.9 Hz, 2H), 7.23 (d, J=6.9 Hz, 2H), 1.48 (s, 9H) LC/MS (10-99%) M/Z: M+1 obs=321.1; tR=2.94 min.

reactant | 2-TMS-thiazole | 14.1 mmol, 2.25 mL | [Si](C)(C)(C)C=1SC=CN1 | C6H11NSSi
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 14.1 mmol, 7.45 mL | C1(=CC=CC=C1)C | C7H8
reactant | N-BOC-4-hydroxyaniline | 21.2 mmol, 4.39 g | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)O | C11H15NO3
reactant | pyridine | 28.2 mmol, 2.3 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Thiazole-2-carboxylic acid 4-tert-butoxycarbonylamino-phenyl ester | 518 mg, 12% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)OC(=O)C=1SC=CN1 | C15H16N2O4S
